US05089496
B. 11-(1-CYANO-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-c]PYRIDINE
To a solution of 400 mg (1.35 mmole) of 11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta [1,2-c]pyridine in 5.0 mL of benzene at room temperature and under an argon atmosphere was added dropwise a solution of 168 mg (1.59 mmole) of cyanogen bromide in 4 mL of benzene. After 30 min. the mixture was poured into water and extracted once with EtOAc. The organic layer was isolated, washed once with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified via flash chromatography [21/2% MeOH in CH2Cl2 ] to give 150 mg (37%) of the title compound as a solid: m.p. 212°-214° C.

reactant | 11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta [1,2-c]pyridine | 1.35 mmole, 400 mg | CN1CCC(CC1)=C1C2=C(CCC3=C1C=NC=C3)C=CC=C2 | C20H22N2
reactant | cyanogen bromide | 1.59 mmole, 168 mg | N#CBr | CBrN
reactant | water | O | H2O
solvent | benzene | 5.0 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
product | 11-(1-CYANO-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-c]PYRIDINE | 150 mg, 37% | C(#N)N1CCC(CC1)=C1C2=C(CCC3=C1C=NC=C3)C=CC=C2 | C20H19N3
